US07846964B2
A solution of 2-ethyl-6-methyl-phenol (8.40 g, 61.7 mmol) and hexamethylene tetraamine (12.97 g, 92.5 mmol) in acetic acid (60 mL) and water (14 mL) is heated to 115° C. The water is distilled off at 117° C. and collected with a Dean-Stark apparatus. Then the water separator is replaced by a reflux condensor and the mixture is refluxed for 3 h. The mixture is cooled to rt, diluted with water (100 mL) and extracted with EA. The organic extract is washed with sat. aq. NaHCO3, dried over MgSO4 and evaporated. The remaining solid is dissolved in EA and treated with heptane to initialize crystallisation. The solid material is collected and dried to give 3-ethyl-4-hydroxy-5-methyl-benzaldehyde (3.13 g) as a colourless crystalline powder, 1H NMR (CDCl3): δ 9.83 (s, 1H), 7.58-7.53 (m, 2H), 5.30 (s br, 1H), 2.69 (q, J=7.6 Hz, 2H), 2.32 (s, 3H), 1.28 (t, J=7.6 Hz, 3H).

reactant | 2-ethyl-6-methyl-phenol | 61.7 mmol, 8.40 g | C(C)C1=C(C(=CC=C1)C)O | C9H12O
reactant | hexamethylene tetraamine | 92.5 mmol, 12.97 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | water | 14 mL | O | H2O
product | 3-ethyl-4-hydroxy-5-methyl-benzaldehyde | 3.13 g | C(C)C=1C=C(C=O)C=C(C1O)C | C10H12O2
